US08937185B2
To a solution of 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carboxylic acid amide (0.98 g) in dichloromethane (5 mL) was added triethylamine (0.63 g, 6.2 mmol) followed by trifluoroacetic anhydride (0.89 g, 4.2 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 3 h and quenched by addition of water (2.0 mL) at 0° C. The resulting mixture was extracted with dichloromethane after it was warmed to room temperature. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by column chromatography, elution with heptanes/EtOAc, to provide 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carbonitrile as a white solid (0.85 g, 2.0 mmol, 99% in three steps). 1H NMR (400 MHz, CDCl3) δ ppm 2.45 (s, 3H), 7.55-7.63 (m, 1H), 7.76 (s, 1H). 19F NMR (376 MHz, CDCl3) δ ppm −113.3 (d, J=7.9 Hz, 0.5F), −113.0 (d, J=7.9 Hz, 0.5F), −73.9 (s, 1.5F), −73.8 (s, 1.5F), −63.9 (s, 3F).

reactant | 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carboxylic acid amide | 0.98 g | ClC1=C(C(=CC(=C1)C(F)(F)F)F)N1N=C(C(=C1C)S(=O)C(F)(F)F)C(=O)N | C13H7ClF7N3O2S
reactant | triethylamine | 6.2 mmol, 0.63 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 4.2 mmol, 0.89 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-Chloro-6-fluoro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethanesulfinyl-1H-pyrazole-3-carbonitrile | ClC1=C(C(=CC(=C1)C(F)(F)F)F)N1N=C(C(=C1C)S(=O)C(F)(F)F)C#N | C13H5ClF7N3OS
